** sch_path: /foss/designs/my_design/projects/pll/charge_pump/xschem_ngspice/tb_rail_to_rail_opamp3.sch
**.subckt tb_rail_to_rail_opamp3
V1 VDD GND 1.8
V3 Vin- GND 0.9 AC 1
V2 Vin+ GND 0.9
x1 VDD Vin+ Vin+ Vout GND rail_to_rail_opamp3
**** begin user architecture code



.option wnflag=1
.option savecurrents

.save
+@m.x1.xm15.msky130_fd_pr__pfet_01v8[gm]
+@m.x1.xm14.msky130_fd_pr__pfet_01v8[gm]
+@m.x1.xm13.msky130_fd_pr__nfet_01v8[gm]
+@m.x1.xm5.msky130_fd_pr__pfet_01v8[gm]
+@m.x1.xm4.msky130_fd_pr__pfet_01v8[gm]
+@m.x1.xm6.msky130_fd_pr__pfet_01v8[gm]
+@m.x1.xm2.msky130_fd_pr__nfet_01v8[gm]
+@m.x1.xm3.msky130_fd_pr__nfet_01v8[gm]
+@m.x1.xm7.msky130_fd_pr__pfet_01v8[gm]
+@m.x1.xm8.msky130_fd_pr__pfet_01v8[gm]
+@m.x1.xm1.msky130_fd_pr__nfet_01v8[gm]
+@m.x1.xm9.msky130_fd_pr__nfet_01v8[gm]
+@m.x1.xm10.msky130_fd_pr__nfet_01v8[gm]
+@m.x1.xm11.msky130_fd_pr__pfet_01v8[gm]
+@m.x1.xm12.msky130_fd_pr__nfet_01v8[gm]
+@m.x1.xm11.msky130_fd_pr__pfet_01v8[gm]
+@m.x1.xm17.msky130_fd_pr__nfet_01v8[gm]
+@m.x1.xm16.msky130_fd_pr__pfet_01v8[gm]

.control
save all
* tran 1u 8m
* ac dec 20 1 1T
dc V2 0 1.8 0.01
write tb_rail_to_rail_opamp3.raw
set appendwrite
.endc




.param mc_mm_switch=0
.param mc_pr_switch=0
.include /foss/pdks/sky130A/libs.tech/ngspice/corners/tt.spice
.include /foss/pdks/sky130A/libs.tech/ngspice/r+c/res_typical__cap_typical.spice
.include /foss/pdks/sky130A/libs.tech/ngspice/r+c/res_typical__cap_typical__lin.spice
.include /foss/pdks/sky130A/libs.tech/ngspice/corners/tt/specialized_cells.spice

**** end user architecture code
**.ends

* expanding   symbol:  /foss/designs/my_design/projects/pll/charge_pump/xschem_ngspice/rail_to_rail_opamp3.sym # of pins=5
** sym_path: /foss/designs/my_design/projects/pll/charge_pump/xschem_ngspice/rail_to_rail_opamp3.sym
** sch_path: /foss/designs/my_design/projects/pll/charge_pump/xschem_ngspice/rail_to_rail_opamp3.sch
.subckt rail_to_rail_opamp3 VDDA Vin+ Vin- Vout GNDA
*.opin Vout
*.ipin Vin+
*.ipin Vin-
*.ipin VDDA
*.ipin GNDA
XM2 n_left Vin+ v_common_n GNDA sky130_fd_pr__nfet_01v8 L=0.15 W=2 nf=2 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM3 n_right Vin- v_common_n GNDA sky130_fd_pr__nfet_01v8 L=0.15 W=2 nf=2 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM5 n_left n_left VDDA VDDA sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=2 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM4 n_right n_left VDDA VDDA sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=2 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM6 v_common_p p_bias VDDA VDDA sky130_fd_pr__pfet_01v8 L=0.15 W=3 nf=3 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM7 p_left Vin+ v_common_p VDDA sky130_fd_pr__pfet_01v8 L=0.15 W=4 nf=4 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM8 p_right Vin- v_common_p VDDA sky130_fd_pr__pfet_01v8 L=0.15 W=4 nf=4 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM9 p_left p_left GNDA GNDA sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM10 p_right p_left GNDA GNDA sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM1 v_common_n n_bias GNDA GNDA sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM11 Vout n_right VDDA VDDA sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=2 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM12 Vout p_right GNDA GNDA sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM13 n_bias n_bias GNDA GNDA sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM15 p_bias p_bias VDDA VDDA sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=2 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
Vmeas net1 n_bias 0
.save i(vmeas)
XM14 net1 net1 p_bias p_bias sky130_fd_pr__pfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
.ends

.GLOBAL GND
.GLOBAL VDD
.end
